US07696231B2
N′-(5-Iodo-2-oxo-1,2 dihydro-3H-indol-3-ylidene)-2-(4-nitrophenoxy)acetohydrazide
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added 2-(4-nitrophenoxy)acetohydrazide. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 395 mg of the title compound (85%) as a yellow solid in 97.3% purity by HPLC (Rt: 5.76, gradient of 10 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | 2-(4-nitrophenoxy)acetohydrazide | [N+](=O)([O-])C1=CC=C(OCC(=O)NN)C=C1 | C8H9N3O4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N′-(5-Iodo-2-oxo-1,2 dihydro-3H-indol-3-ylidene)-2-(4-nitrophenoxy)acetohydrazide | 395 mg, 85% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(COC1=CC=C(C=C1)[N+](=O)[O-])=O | C16H11IN4O5
